US05646173
35.25 g of 5-methoxy-1-tetralone and 61 ml of N,N-dimethylhydrazine were heated to about 80° under argon for 5 hours. The mixture was left to cool, 200 ml of 10% sodium chloride solution were added and the mixture was extracted several times with diethyl ether. The mixture was dried over sodium sulfate, filtered and evaporated. The oily residue was distilled over a 10 cm Vigreux column. At 85°-95°/0.1 mbar there were obtained 36.4 g (83%) of 5-methoxy-1-tetralone N,N-dimethylhydrazone as a yellow oil.

reactant | 5-methoxy-1-tetralone | 35.25 g | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | N,N-dimethylhydrazine | 61 ml | CN(N)C | C2H8N2
solvent | sodium chloride | 200 ml | [Cl-].[Na+]
product | 5-methoxy-1-tetralone N,N-dimethylhydrazone | 36.4 g, 83% | CN(N=C1CCCC2=C(C=CC=C12)OC)C | C13H18N2O
